US07094801B2
4-{3E-[4-Methoxy-2-(2-morpholin-4-yl-ethoxy)-5-thiophen-2-yl-phenyl]-acryloyl}-benzenesulfonamide, hydrochloride
Th 4-{3-[4-Methoxy-2-(2-morpholin-4-yl-ethoxy)-5-thiophen-2-yl-phenyl]-acryloyl}-benzenesulfonamide (Ex-81, 0.065 g, 0.12 mmol) was dissolved in tetrahydrofuran (5 mL) and 3 N HCl (1 mL) was added drop wise to the solution. The resulting yellow slurry was stirred in the dark at room temperature for 30 min. The precipitate was collected and dried in vacuo to yield 0.054 g (78%) of the title compound as a yellow solid, mp 235° C. (dec). 1H-NMR (300 MHz, DMSO-d6): δ 8.31–8.34 (m, 3H), 8.13 (d, 1H, J=15.0 Hz), 7.92–8.01 (m, 3H), 7.70 (d, 1H, J=4.0 Hz), 7.54 (m, 3H), 7.15–7.17 (m, 1H), 6.92 (s, 1H), 4.64 (brs, 2H), 4.03 (s, 5H), 3.72–3.79 (m, 4H), 3.56–3.60 (m, 4H). MS (ESI) m/z=529 ([M+H]+, 100%). Anal. Calcd. for C26H29ClN2O6S2: C, 55.26; H, 5.17; Cl, 6.27; N, 4.96; S, 11.35. Found: C, 55.31; H, 5.17; Cl, 6.32; N, 4.98; S, 11.20.

reactant | 4-{3-[4-Methoxy-2-(2-morpholin-4-yl-ethoxy)-5-thiophen-2-yl-phenyl]-acryloyl}-benzenesulfonamide | 0.12 mmol, 0.065 g | COC1=CC(=C(C=C1C=1SC=CC1)C=CC(=O)C1=CC=C(C=C1)S(=O)(=O)N)OCCN1CCOCC1 | C26H28N2O6S2
reactant | HCl | 3 N, 1 mL | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-{3E-[4-Methoxy-2-(2-morpholin-4-yl-ethoxy)-5-thiophen-2-yl-phenyl]-acryloyl}-benzenesulfonamide, hydrochloride | 0.054 g, 78% | Cl.COC1=CC(=C(C=C1C=1SC=CC1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)N)OCCN1CCOCC1 | InChI=1S/C26H28N2O6S2.ClH/c1-32-25-18-24(34-15-12-28-10-13-33-14-11-28)20(17-22(25)26-3-2-16-35-26)6-9-23(29)19-4-7-21(8-5-19)36(27,30)31;/h2-9,16-18H,10-15H2,1H3,(H2,27,30,31);1H/b9-6+;
